US09056874B2
(±)-2-(1-Amino-1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
A solution of (±)-N-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)ethyl)-2-methylpropane-2-sulfinamide and (±)-N-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)ethyl)-2-methylpropane-2-sulfinamide (330 mg, 0.451 mmol) in 1M HCl in MeOH (5 mL) was stirred at 60° C. for 6 h. The reaction mixture was neutralized with 5% aq. NaHCO3. The layers were separated and the aqueous layer was extracted with CH2Cl2. The organic phase was successively washed by H2O and brine, dried over Na2SO4, and filtered. After concentration, the residue was purified by silica gel flash column chromatography (CH2Cl2/EtOH=1/0 to 9/1) to give the title compound. MS (ESI−) m/z 496.4 (M−H).

reactant | (±)-N-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)ethyl)-2-methylpropane-2-sulfinamide | C(#N)C1=CC2=C(N(C(=N2)C(C)(C2=C3C=CN(C3=C(C=C2CC)C)S(=O)(=O)C2=CC=C(C)C=C2)NS(=O)C(C)(C)C)COCC[Si](C)(C)C)C=C1 | C38H49N5O4S2Si
reactant | (±)-N-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)ethyl)-2-methylpropane-2-sulfinamide | 0.451 mmol, 330 mg | C(#N)C=1C=CC2=C(N(C(=N2)C(C)(C2=C3C=CN(C3=C(C=C2CC)C)S(=O)(=O)C2=CC=C(C)C=C2)NS(=O)C(C)(C)C)COCC[Si](C)(C)C)C1 | C38H49N5O4S2Si
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 1M | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | (±)-2-(1-Amino-1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | NC(C)(C1=C2C=CN(C2=C(C=C1CC)C)S(=O)(=O)C1=CC=C(C)C=C1)C1=NC2=C(N1)C=CC(=C2)C#N | C28H27N5O2S
